US08809369B2
A mixture of 6-fluoro-2-{3-[4-(2-fluoro-phenyl)-piperazin-1-yl]-phenyl}-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid (100 mg, 0.21 mmol), 1-3-dimethylaminopropyl-3-ethylcarbodiimide hydrochloride (60 mg, 0.31 mmol), 4-dimethylaminopyridine (38 mg, 0.31 mmol), methane sulfonamide (60 mg, 0.63 mmol) in dichloromethane (10 mL) was refluxed for 12 h. Removal of the solvent to afford the oil residue. Purification by Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% formic acid in water) afforded N-(6-fluoro-2-{3-[4-(2-fluoro-phenyl)-piperazin-1-yl]-phenyl}-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-8-carbonyl)-methanesulfonamide (34.7 mg, 30%) as a light yellow solid: MS (ESI) M+1=555.3.

reactant | 6-fluoro-2-{3-[4-(2-fluoro-phenyl)-piperazin-1-yl]-phenyl}-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid | 0.21 mmol, 100 mg | FC=1C=C2C(CC(NC2=C(C1)C(=O)O)C1=CC(=CC=C1)N1CCN(CC1)C1=C(C=CC=C1)F)(C)C | C28H29F2N3O2
reactant | methane sulfonamide | 0.63 mmol, 60 mg | CS(=O)(=O)N | CH5NO2S
catalyst | 4-dimethylaminopyridine | 0.31 mmol, 38 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-(6-fluoro-2-{3-[4-(2-fluoro-phenyl)-piperazin-1-yl]-phenyl}-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-8-carbonyl)-methanesulfonamide | 34.7 mg, 30% | FC=1C=C2C(CC(NC2=C(C1)C(=O)NS(=O)(=O)C)C1=CC(=CC=C1)N1CCN(CC1)C1=C(C=CC=C1)F)(C)C | C29H32F2N4O3S
